US05364866
A stirred mixture of 6-fluoro-3-(4-piperidinyl)-1,2-benzisothiazole (4.72 g, 0.02 mole), potassium carbonate (4.14 g, 0.03 mole) and N-(2-bromoethyl)phthalimide (6.35 g, 0.025 mole) in 200 ml of acetonitrile is heated at reflux for 4 hours. The solids are then removed by filtration and the filtrate is concentrated under reduced pressure. The residue is purified by chromatography over silica gel to provide N-[2-[4-(6-fluoro-1,2-benzisothiazol-3-yl)-1-piperidinyl]ethyl]phthalimide.

reactant | 6-fluoro-3-(4-piperidinyl)-1,2-benzisothiazole | 0.02 mole, 4.72 g | FC1=CC2=C(C(=NS2)C2CCNCC2)C=C1 | C12H13FN2S
reactant | potassium carbonate | 0.03 mole, 4.14 g | C([O-])([O-])=O.[K+].[K+]
reactant | N-(2-bromoethyl)phthalimide | 0.025 mole, 6.35 g | BrCCN1C(C=2C(C1=O)=CC=CC2)=O | C10H8BrNO2
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | N-[2-[4-(6-fluoro-1,2-benzisothiazol-3-yl)-1-piperidinyl]ethyl]phthalimide | FC1=CC2=C(C(=NS2)C2CCN(CC2)CCN2C(C=3C(C2=O)=CC=CC3)=O)C=C1 | C22H20FN3O2S
